Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Latex Gloves / Aspirin / Colchicine / Antihistamine / Quinolones 
/ Vasodilators,Misc. Classifier / Loratadine / Theophylline / 
Opioids: Morphine & Related / Cortisone / Azithromycin / Nsaids 
/ Demerol / Sulfa (Sulfonamide Antibiotics) / Barbiturates / 
Celexa / Penicillins / Tetracycline / IV Dye, Iodine Containing
 
Attending: ___
 
Chief Complaint:
tranfer from OSH for diarrhea 
 
Major Surgical or Invasive Procedure:
R PICC placement
LIJ placement
 
History of Present Illness:
From family and OSH notes (no DC summary provided)  
___ F with CAD, CHF, CVA, ILD, COPD and multiple abdominal 
surgeries tranfer from OSH for ___ opinion of diarrhea. She had 
diverticulitis with colovesicular fistula in ___ that required 
partial colonic resection and an ileostomy. In ___, she had 
the ileostomy reversed and since then, she has had worsening of 
her diarrhea. In fact, since ___, she has been admitted to OSH 5 
times for long hospital stays with extensive work up that has 
been negative so far. Most recently, she was admitted to OSH 
___ where workup again has been negative. She has been getting 
IVF; lasix held. The family requested a transfer to ___ this 
morning for a ___ opinion at a tertriary care center. Of note 
this morning, she had flash pulm edema and was given 40mg IV 
lasix with ___ urine output.  
.  
She was transferred to ___ on supplemental oxygen. On arrival 
to the floor, she required 6LNC and was saturating 88%. ABG 
showed paO2 of 54. CXR was consistent with significant pulm 
edema. 40 mg IV lasix was given with 200cc UOP. Her saturation 
improved on hi flow ___ mask saturating 95%. Of note, her 
central line is not at the proper place in the Xray. Because of 
her hypoxia from CHF and likely PNA (leukocytosis, low grade 
fever, sputum, cough), she was transferred to the MICU for 
further care.  
.  
At the OSH, she was started on sucrulfate for gastritis, reglan 
for mild gastroparesis and nortyptilline. She was also kept on 
immodium standing at 4mg BID and psyllium. Her surgeons felt 
that she had a "short colon". She underwent colonscopy and EGD 
w/o diagnosis.  

 
Past Medical History:
Diverticulitis with colovesicular fistula with ?perf s/p 
colectomy and ileostomy, then reversed in ___  
Gout  
Hypothyroid  
Asthma  
Restritive lung disease  
CVA ___ (weak hand grip/hand numbness)  
CAD (?h/o MI ___  
pAfib  
HL  
Htn  
CHF  

 
Social History:
___
Family History:
NC
 
Physical Exam:
VITALS: HR 89 BP 127/51 SAO2 96% Fio2 100% 
GEN: in distress, Aox3 but drowsy
HEENT: JVD to 10cm, no LAD
RESP: tachpnea, supraclavicular retractions, difficulty 
speaking, abdominal breathing, diffuse crackles, no wheezes
___: RRR, no MRG
ABD: soft, NT/ND, NABS
EXT: no edema
 
Pertinent Results:
___ 08:55PM BLOOD WBC-17.8* RBC-3.87* Hgb-11.8* Hct-34.3* 
MCV-89 MCH-30.4 MCHC-34.3 RDW-14.4 Plt ___
___ 08:55PM BLOOD Neuts-78.1* Lymphs-12.6* Monos-5.8 
Eos-3.3 Baso-0.3
___ 08:55PM BLOOD ___ PTT-35.6* ___
___ 08:55PM BLOOD Glucose-91 UreaN-5* Creat-0.7 Na-138 
K-3.1* Cl-98 HCO3-30 AnGap-13
___ 08:55PM BLOOD ALT-11 AST-21 LD(LDH)-297* CK(CPK)-49 
AlkPhos-85 TotBili-1.1
___ 08:55PM BLOOD CK-MB-NotDone cTropnT-<0.01 proBNP-1318*
___ 03:40AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 04:18AM BLOOD proBNP-2438*
___ 04:25AM BLOOD proBNP-4597*
___ 08:55PM BLOOD Albumin-3.0* Calcium-7.6* Phos-3.2 
Mg-1.0* Iron-17*
___ 08:55PM BLOOD calTIBC-207* Ferritn-136 TRF-159*
___ 03:22AM BLOOD VitB12-203* Folate-8.7
___ 03:22AM BLOOD TSH-18*
___ 03:23AM BLOOD IgA-281
___ 06:41AM BLOOD Vanco-17.6
___ 04:27AM BLOOD Vanco-19.2
___ 03:23AM BLOOD tTG-IgA-5
___ 08:41PM BLOOD Type-ART pO2-54* pCO2-42 pH-7.49* 
calTCO2-33* Base XS-7
___ 12:00PM BLOOD Type-MIX pO2-96 pCO2-64* pH-7.26* 
calTCO2-30 Base XS-0
.

___ 04:16AM BLOOD WBC-18.6* RBC-3.45* Hgb-10.2* Hct-31.4* 
MCV-91 MCH-29.5 MCHC-32.3 RDW-14.6 Plt ___
___ 03:59AM BLOOD Neuts-79.6* Lymphs-13.2* Monos-3.3 
Eos-3.5 Baso-0.3
___ 05:41AM BLOOD ___ PTT-34.3 ___
___ 04:16AM BLOOD Glucose-149* UreaN-15 Creat-0.5 Na-135 
K-4.4 Cl-100 HCO3-26 AnGap-13
___ 06:10AM BLOOD ALT-17 AST-18 AlkPhos-105 TotBili-0.3
___ 04:16AM BLOOD Calcium-8.6 Phos-3.6 Mg-2.2
.
___ ECHO
The left atrium and right atrium are normal in cavity size. No 
left atrial mass/thrombus seen (best excluded by transesophageal 
echocardiography). Left ventricular wall thicknesses and cavity 
size are normal. Regional left ventricular wall motion is 
normal. Overall left ventricular systolic function is low normal 
(LVEF 50%). The estimated cardiac index is normal 
(>=2.5L/min/m2). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets are mildly 
thickened (?#). There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Trivial mitral regurgitation is seen. There is 
borderline pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
global and regional biventricular systolic function. Aortic 
valve sclerosis. 
.
___ CT ab/pelvis
 
IMPRESSION: 
1. Diffusely well-defined ground-glass opacity in the lungs with 
some of 
interspersed normal lung likely represent infection or ARDS. 
2. Areas of edema, one in the right upper quadrant inferior to 
the liver tip 
and the surgical anastomosis may represent focal fat necrosis. 
3. Additional edema in the pelvis superior to the Foley catheter 
may 
represent fat necrosis or focal omental infarct. 
4. Unusual course of small bowel in posterior to the descending 
colon may be 
secondary to prior surgery or due to a internal hernia through 
congenital 
defect in sigmoid mesocolon (intersigmoid hernia). This does not 
appear to be 
at risk for incarceration given the long length under which the 
small bowel 
loops run posterior to the descending colon. 
5. Multiple calcified mediastinal and hilar nodes likely 
represents sarcoid 
or less likely old granulomatous disease.  
.
___ Wrist XR
IMPRESSION: Probable "post-traumatic cyst-like defect" in the 
scaphoid waist, 
suggesting underlying fracture. This should be correlated 
clinically and, if 
warranted for further management, might be further characterized 
by targeted 
MDCT (with reformations). 
.
___ CXR
The left internal jugular line tip is at the superior SVC. 
Cardiomediastinal 
silhouette is unchanged. There is slight interval additional 
improvement in 
the parenchymal opacities that might represent a process of 
fluctuation of 
superimposed pulmonary edema giving the more involvement of the 
lung 
parenchyma than on for example ___ or ___, 
although note is 
made that the improvement of the lung parenchyma may lag after 
clinical 
improvement. There is slightly more lucent area in the right 
suprahilar area 
that may represent either parenchyma or a pneumatocele that 
might be further 
observed on the subsequent studies. 

 
Brief Hospital Course:
___ F with CAD, CHF, CVA, ILD, COPD and multiple abdominal 
surgeries transfer from OSH for ___ opinion of diarrhea who was 
admitted to MICU for hypoxia, now s/p intubation and extubation. 
 Patient’s respiratory distress continued to decline since 
extubation and she was made comfort measures only and was made 
comfortable on morphine drip. Antibiotics and steroids were 
discontinued.  She passed away one day later.
Additional problem-based hosptial course:
1. Respiratory distress  
Etiology is unclear. Initial event was likely related to 
pneumonia and ARDS. She had improved but then on ___ 
developed a new WBC. Her underlying lung disease diagnosis is 
unclear, although she likely has sarcoidosis.  She was continued 
on cefepime (day ___ and vanco (day ___ therapeutic) 
until she was made CMO>
.
2. Afib: She alternated between afib w/ rvr and sinus rhythm.  
When in afib, was unable to rate control even w/ dilt and 
metoprolol.  Amio loaded toward the end of her hospital course 
as further rate control was precluded by hypotension.
.
3. Diarrhea:  No clear etiology defined at her passing.  Stool 
volume much improved on Vivonex but albumin did not improve.  
She was started on TPN several days prior to her death.  Has had 
extensive w/u without diagnosis. Leading diagnosis is short gut 
("short colon") although short colon does not typically cause 
diarrhea. Infections have been repeated r/o. Microscopic colitis 
is under consideration and biopsies are pending at OSH. Gastrin 
elevated, 5HIAA minimally elevated from OSH; VIP from OSH 
pending. Pancreatic insufficiency should also be considered.  
Stool Osm gap 66, more suggestive of a secretory diarrhea. TTG 
within normal limits; c.diff negative x2.
.
4. Wrist pain.  XR c/w fracture but unclear timing.  
Conservative management given poor prognosis.
.
5. Anemia: Unclear etiology but likely multifactorial.  No 
transfusions during her hospital course.
.
6. Gastritis/ GERD: Continued PPI IV 

7. CAD: Not on ASA for unclear reason. Continued plavix per 
outpatient regimen.
- held simvastatin when extubated and not tolerating pos.
.
8. Hypothyroidism: TSH was 3.71 at OSH and Levothyroxine dose 
appears to have been decreased from 200mg to 100mg daily.  
Continued levothyroxine.
.
9.Hypotension: Brief episode when on precedex prior to 
extubation.  Now resolved. 
 
Medications on Admission:
MEDS at home:  
Plavix 75  
Cardizem 240  
Advair  
Syntrhoid ___  
Imodium  
Singulair 10  
Zocor 20  
Spiriva  
Trazadone 50 OQHS PRN  
Lasix 40  
.  
MEDS AT OSH:  
Metamucil  
Advair  
Spiriva  
Amlodipine 5  
Plavix 75  
Levothyoxine 100  
singulair 10  
simvastatin 20  
dilt 240 bid  
omeprazole 20 bid  
heparin 5000 bid  
lactobacillus 1 bid  
reglan 10 qAC  
sulcrafate 2 gram QHS  
notryptyline 25 qPM  
Imodium tid  
 
Discharge Medications:
n/a
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
n/a
 
Discharge Condition:
n/a
 
Discharge Instructions:
n/a
 
Followup Instructions:
___